US05635534
51(a) 5-(4-Acetoxybenzylidene)thiazolidine-2,4-dione
A mixture comprising 200 g of -hydroxybenzaldehyde, 22 g of thiazolidine-2,4-dione, 280 g of sodium acetate and 660 ml of dimethylacetamide was stirred at 150° for 1 hour. It was then cooled, and 540 ml of dimethylacetamide and 370 ml of acetic anhydride were added to the reaction mixture. The resulting mixture was then stirred at 50° C. for 1.5 hours, after which it was poured into water. The solid which precipitated was collected by filtration, washed with water, and dried over anhydrous sodium sulfate, to give the title compound.

reactant | hydroxybenzaldehyde | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | thiazolidine-2,4-dione | 22 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | sodium acetate | 280 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 370 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | dimethylacetamide | 540 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 660 ml | CC(=O)N(C)C | C4H9NO
product | 5-(4-Acetoxybenzylidene)thiazolidine-2,4-dione | C(C)(=O)OC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C12H9NO4S
